US04524071
E. 2-[[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-[2-[3-(methoxymethyl)phenoxy]ethyl]-4(3H)-pyrimidinone
A mixture of 5-[2-[3-(methoxymethyl)phenoxy]ethyl]-2-(methylthio)-4(3H)-pyrimidinone (0.7 g ) and 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine (0.54 g) was heated at 140° for 2 h. The residue was chromatographed (silica/methanol) to give the title compound (0.55 g) as a pale yellow oil.

reactant | 5-[2-[3-(methoxymethyl)phenoxy]ethyl]-2-(methylthio)-4(3H)-pyrimidinone | 0.7 g | COCC=1C=C(OCCC=2C(NC(=NC2)SC)=O)C=CC1 | C15H18N2O3S
reactant | 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine | 0.54 g | NCCSCC1=CC=C(O1)CN(C)C | C10H18N2OS
product | 2-[[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-[2-[3-(methoxymethyl)phenoxy]ethyl]-4(3H)-pyrimidinone | 0.55 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CCOC1=CC(=CC=C1)COC | C24H32N4O4S
